2111-02-10 09:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On PSV 10/5 this AM.
   24 Hour Events:
 PICC LINE - START [**2111-2-9**] 07:00 PM
 ARTERIAL LINE - START [**2111-2-9**] 09:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2111-2-9**] 08:00 PM
   Vancomycin - [**2111-2-9**] 09:30 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-2-10**] 08:15 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-2-10**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (98.9
   HR: 78 (77 - 93) bpm
   BP: 148/67(90) {124/59(79) - 156/75(97)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 71 kg
             Total In:
                                                                  1,400 mL
                                                                    249 mL
   PO:
             TF:
   IVF:
                                                                    400 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,400 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 600) mL
   Vt (Spontaneous): 400 (400 - 470) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 15 cmH2O
   Plateau: 17 cmH2O
   Compliance: 53.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/45/96.[**Numeric Identifier 181**]/30/6
   Ve: 11 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   176 K/uL
   75 mg/dL
   6.6 mg/dL
   30 mEq/L
   4.6 mEq/L
   35 mg/dL
   100 mEq/L
   141 mEq/L
   28.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2111-2-9**]  09:08 PM
                             [**2111-2-9**]  11:51 PM
                             [**2111-2-10**]  02:44 AM
                             [**2111-2-10**]  05:38 AM
   WBC
   6.9
   Hct
   28.0
   Plt
   176
   Cr
   6.6
   TropT
   0.07
   TCO2
   32
   31
   33
   Glucose
   75
   Other labs: PT / PTT / INR:24.6/43.3/2.4, CK / CKMB /
   Troponin-T:32//0.07, Lactic Acid:1.2 mmol/L, Ca++:8.9 mg/dL, Mg++:1.5
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DYSPNEA (SHORTNESS OF BREATH)
 .H/O BACTEREMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   61 yo with a ESRD on HD, with recent prolonged hospitalization for
   incarcerated hernia, complicated by ESBL Klebsiella bacteremia recently
   on Vancomycin and Meropenem, who presents with respiratory failure due
   to L-sided pneumonia and volume overload.
   1. Respiratory Failure: Will cont to treat pneumonia with
   vanc/[**Last Name (un) 614**]/levofloxacin.  Flu ruled out - d/c Tamiflu.  Has pink, frothy
   sputum --> though oxygenating well, will wait until HD completed today
   before assesing for extubation by SBT.
   2. Recent Klebsiella ESBL bacteremia: Had completed vanc/[**Last Name (un) 614**] course
   --> but restarted given new pneumonia
   3. ESRD on HD: Getting HD today
   4. h/o multiple prior CVAs: Cont Coumadin with INR goal [**2-25**]
   Remainder os issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-2-9**] 07:00 PM
   18 Gauge - [**2111-2-9**] 07:01 PM
   Arterial Line - [**2111-2-9**] 09:00 PM
   Comments: Has PowerPICC that appears to have subclavian insertion site
   - will touch base with [**Hospital1 747**] about this line, per family it was to come
   out today
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2111-02-11 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2111-2-10**] 08:53 AM
 INVASIVE VENTILATION - STOP [**2111-2-10**] 06:00 PM
   - Influenza negative, Oseltamivir stopped
   - HD performed. Vancomycin given per HD protocol.
   - Lines will need to be reassed on rounds in AM.
   - Extubated 1800. Post extubation ABG: 7.5/46/64.
   Albuterol/Ipratroprium started.
   - Hypertensive 170s/70s - Captopril 75mg TID, Metoprolol 100mg [**Hospital1 7**].
   Gave dose last night.
   - EKG performed with non specific ST changes in lateral leads. Plan to
   draw enzymes in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2111-2-10**] 03:27 PM
   Vancomycin - [**2111-2-10**] 04:12 PM
   Meropenem - [**2111-2-10**] 08:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-2-10**] 08:15 AM
   Pantoprazole (Protonix) - [**2111-2-10**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-11**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 87 (71 - 90) bpm
   BP: 151/67(94) {106/57(74) - 175/73(101)} mmHg
   RR: 15 (10 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 71 kg
             Total In:
                                                                    813 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                    713 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,687 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 426) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.51/42/73.[**Numeric Identifier 218**]/33/8
   Ve: 10.2 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General: [[**Doctor First Name **]: Intubated and sedated :[**Doctor First Name **]]
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally on anterior exam, no wheezes,
   rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  Midline abdominal scar. Small hematoma at incision. Soft,
   non-tender, non-distended, bowel sounds present, no rebound tenderness
   or guarding, no organomegaly
   GU: Foley present
   Ext: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema
   Neurology: Heavy sedation on propofol early, then able to wake and
   meaningful interact this a.m.. Posture of upper limbs consistent with
   upper motor neuron lesions last night, moving left arm this a.m. and
   able to squeeze on command. Some moderate muscular atrophy.
   Labs / Radiology
   177 K/uL
   10.0 g/dL
   82 mg/dL
   5.5 mg/dL
   33 mEq/L
   3.7 mEq/L
   22 mg/dL
   97 mEq/L
   142 mEq/L
   31.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2111-2-9**]  09:08 PM
                             [**2111-2-9**]  11:51 PM
                             [**2111-2-10**]  02:44 AM
                             [**2111-2-10**]  05:38 AM
                             [**2111-2-10**]  10:15 AM
                             [**2111-2-10**]  06:36 PM
                             [**2111-2-10**]  08:47 PM
                             [**2111-2-10**]  09:00 PM
                             [**2111-2-11**]  02:37 AM
                             [**2111-2-11**]  02:50 AM
   WBC
   6.9
   8.4
   Hct
   28.0
   31.5
   Plt
   176
   177
   Cr
   6.6
   4.8
   5.5
   TropT
   0.07
   0.07
   0.07
   TCO2
   32
   31
   33
   36
   37
   35
   Glucose
   75
   90
   82
   Other labs: PT / PTT / INR:19.6/35.1/1.8, CK / CKMB /
   Troponin-T:23/2/0.07, ALT / AST:16/20, Alk Phos / T Bili:118/0.8,
   Amylase / Lipase:/37, Lactic Acid:1.2 mmol/L, LDH:146 IU/L, Ca++:8.8
   mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   [**2-10**] CXR - ? Pneumothorax
   [**2-9**] Blood culture x2
 Pending
   [**2-9**], [**2-10**] Sputum
 Pending
   [**2-9**] Flu
 Negative
   Assessment and Plan
   61 yo M ESRD on HD, multiple strokes (on coumadin for prophylaxis),
   HTN, CAD, GERD, chronic HBV, recent hospitalization [**Date range (1) 12717**] for
   hernia repair/abscess/ESBL Klebs bacteremia on antibiotics until [**2111-1-28**]
   developed SOB at HD today. Developed respiratory failure in ED, CXR
   with L lung infiltrate.
   # Dyspnea
   Likely pulmonary edema with superimposed infection: Throthy pink sputum
   and concern for pulmonary edema and possible pneumonia. Differential
   includes bacteria and viral; CXR shows clear large infiltrate. Recent
   hospitalization so cover for hospital-acquired pneumonia. Already on
   Vancomycin and Meropenem for prior ESBL Klebsiella bacteremia. Would
   add Levofloxacin for better pulmonary coverage. Differential always
   includes MI and PE, though less likely given current CXR. Echo from
   [**12-1**] shows EF 45-50%. HD patient with incomplete dialysis and high
   creatinine with clinical signs of fluid overload. ROMI negative x 2.
   Flu negative by swab and given H1N1 vaccine.
   - Continue to trend enzymes
   - Vancomycin, Levofloxacin, Meropenem for HAP (day 1= [**2-9**])
   - f/u blood cultures
   # Respiratory Failure and Ventilation
   Likely as above. Concern for DAH also and edema. s/p extubation.
   - Eval CXR
   # Fever
   Possible from PNA, sepsis, fistula site, pelvic abscess, line
   infection,
   - Blood culture, follow CXR
   - Consider line removal (see access below)
   - Follow curve
   - Consider u/s of fistula sites (right and left)
   # Access
   Probably with concern for bilateral fistulae, was PICC power placed as
   tunneled to IJ.
   - Discuss with IR
   - Follow blood cultures and remain sensitive to possible line infection
   (signs attributable to PNA for now)
   Recent Klebsiella ESBL Bacteremia
   Followed by ID on last hospitalization. Vanc and Meropenem were due to
   be completed on [**1-28**]. Unclear if this was stopped at rehab, or if ID
   planned to continue it.
   - F/u blood cultures, repeat
   - Continue Vancomycin and Meropenem per above for HAP coverage
   - Med list from rehab. To see if completed course, or if course
   continued
   ESRD on HD
   HD for this a.m. with goal to be negative.
   - Continue Sevelamer
   - Renally dose medications, avoid nephrotoxins
   CAD
   ROMI negative.
   - Continue ASA, statin, with caution for DAH
   - Hold BB and ACEI tonight. Consider restarting in the AM if BP
   tolerates.
   Cerebrovascular Disease
   Noted to have vascular dementia and previous likely embolic strokes on
   coumadin
 no documented AF noted on review of past notes. Largest
   changes cerebrovascular/embolic (not hypertensive, but given history of
   hypertension, may also be superimposed and cause of some large vessel
   cerebrovascular disease) with bilateral MCA disease with good
   collateral supply and no watershed. Also ventricular enlargement.
   Equivalent to very posterior lobotomy anatomically.
   - Hold coumadin given present INR and possible DAH (consider bridge
   when falls)
   - Monitor INR: goal [**2-25**] if decide on coumadin otherwise lowish goal for
   PTT if concern for DAH
   - Discuss goals of care with family
   Seizure Disorder/Prophylaxis
   Per note of Drs. [**Last Name (STitle) 12731**] and [**Name5 (PTitle) 4021**] [**2110-8-6**], post-stroke seizure with
   two events. On Keppra as an outpatient.
   - Continue Keppra at outpatient doses (but after HD, not before)
   - Continue zonisamide
   Chronic Hepatitis B
   - Monitor liver enzymes
   Depression
   - Continue fluoxetine
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Stop subcutaneous heparin given possible DAH and high
   INR
   # Access: PIV x1, R tunneled PICC on right chest into IJ placed on
   [**2110-12-27**] at [**Hospital1 19**], A-line
   # Communication: Patient and daughter [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 12715**]; [**Telephone/Fax (1) 12716**].
   # Code: Presumed full, will confirm with HCP
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-2-9**] 07:00 PM
   18 Gauge - [**2111-2-9**] 07:01 PM
   Arterial Line - [**2111-2-9**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-02-11 11:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints except wanting to eat
   24 Hour Events:
 SPUTUM CULTURE - At [**2111-2-10**] 08:53 AM
 INVASIVE VENTILATION - STOP [**2111-2-10**] 06:00 PM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2111-2-10**] 03:27 PM
   Vancomycin - [**2111-2-10**] 04:12 PM
   Meropenem - [**2111-2-10**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-2-10**] 11:55 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-2-11**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 80 (71 - 90) bpm
   BP: 157/66(94) {106/57(74) - 175/91(109)} mmHg
   RR: 17 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 71 kg
             Total In:
                                                                    813 mL
                                                                    232 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    713 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,687 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 426) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.49/44/122/33/10
   Ve: 10.2 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at R base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   177 K/uL
   82 mg/dL
   5.5 mg/dL
   33 mEq/L
   3.7 mEq/L
   22 mg/dL
   97 mEq/L
   142 mEq/L
   31.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2111-2-10**]  02:44 AM
                             [**2111-2-10**]  05:38 AM
                             [**2111-2-10**]  10:15 AM
                             [**2111-2-10**]  06:36 PM
                             [**2111-2-10**]  08:47 PM
                             [**2111-2-10**]  09:00 PM
                             [**2111-2-11**]  02:37 AM
                             [**2111-2-11**]  02:50 AM
                             [**2111-2-11**]  06:19 AM
                             [**2111-2-11**]  09:54 AM
   WBC
   6.9
   8.4
   Hct
   28.0
   31.5
   Plt
   176
   177
   Cr
   6.6
   4.8
   5.5
   TropT
   0.07
   0.07
   0.07
   0.07
   TCO2
   33
   36
   37
   35
   34
   Glucose
   75
   90
   82
   Other labs: PT / PTT / INR:19.6/35.1/1.8, CK / CKMB /
   Troponin-T:19/2/0.07, ALT / AST:16/20, Alk Phos / T Bili:118/0.8,
   Amylase / Lipase:/37, Lactic Acid:1.2 mmol/L, LDH:146 IU/L, Ca++:8.8
   mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DYSPNEA (SHORTNESS OF BREATH)
 .H/O BACTEREMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   61 yo with a ESRD on HD, with recent prolonged hospitalization for
   incarcerated hernia, complicated by ESBL Klebsiella bacteremia recently
   on Vancomycin and Meropenem, who presents with respiratory failure due
   to L-sided pneumonia and volume overload.
   1. Respiratory Failure: Will cont to treat pneumonia with
   vanc/[**Last Name (un) 614**]/levofloxacin.  Extubated yesterday - had a large R-sided
   mucous plug on AM CXR.  Now with some improved aeration wth chest PT.
   Cont chest PT, continue to encourage cough.
   2. Recent Klebsiella ESBL bacteremia: Vanc/[**Last Name (un) 614**] restarted
   3. ESRD on HD: HD per renal
   4. h/o multiple prior CVAs: Restart Coumadin with INR goal [**2-25**]
   Remainder os issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-2-9**] 07:00 PM
   18 Gauge - [**2111-2-9**] 07:01 PM
   Arterial Line - [**2111-2-9**] 09:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill